US06150373
A solution of 230 mg of 7-anilino-3-(2-bromophenyl)-3,4-dihydro-1-[3-(phthalimidomethyl)phenyl]pyrimido[4,5-d]pyrimidin-2(1H)-one in 10 ml of ethanol was treated with 0.5 ml of hydrazine hydrate. After 18 hours the mixture was evaporated and the product purified by column chromatography on silica gel using dichloromethane/methanol/acetic acid/water (240:24:3:2) for the elution. Product-containing fractions were combined, evaporated and the residue evaporated with toluene. The residue was then dissolved in 50 ml of dichloromethane, washed with 50 ml of saturated aqueous sodium bicarbonate solution, dried over magnesium sulfate, filtered and evaporated to give 5 mg (2.8%) of 1-[3-(aminomethyl)phenyl]-7-anilino-3-(2-bromophenyl)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one as a white solid of melting point 121° C.

reactant | 7-anilino-3-(2-bromophenyl)-3,4-dihydro-1-[3-(phthalimidomethyl)phenyl]pyrimido[4,5-d]pyrimidin-2(1H)-one | 230 mg | N(C1=CC=CC=C1)C1=NC=C2C(=N1)N(C(N(C2)C2=C(C=CC=C2)Br)=O)C2=CC(=CC=C2)CN2C(C=1C(C2=O)=CC=CC1)=O | C33H23BrN6O3
reactant | hydrazine hydrate | 0.5 ml | O.NN
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-[3-(aminomethyl)phenyl]-7-anilino-3-(2-bromophenyl)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 5 mg, 2.8% | NCC=1C=C(C=CC1)N1C(N(CC=2C1=NC(=NC2)NC2=CC=CC=C2)C2=C(C=CC=C2)Br)=O | C25H21BrN6O
